US04661477
To a mixture of 34.6 g. (0.25 moles) of diethyl phosphite, 50 ml. of water and 50 ml. of ethanol 60.4 g (0.25 moles) of hexadecyl amine and 70 ml. of ethanol are added. The reaction mixture is refluxed for 4 hours, whereupon the solvent is distilled off in vacuo. 85.2 g. of hexadecyl-ammoniumethyl phosphonate are obtained. Yield: 97.0%. Melting point: 50° to 52° C.

reactant | diethyl phosphite | 0.25 moles | P(OCC)(OCC)[O-]
reactant | water | O | H2O
reactant | hexadecyl amine | C(CCCCCCCCCCCCCCC)N | C16H35N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 0.25 moles, 60.4 g | C(C)O | C2H6O
product | hexadecyl-ammoniumethyl phosphonate | Yield: 97.0% | C(C)P([O-])([O-])=O.C(CCCCCCCCCCCCCCC)[NH3+].C(CCCCCCCCCCCCCCC)[NH3+] | InChI=1S/2C16H35N.C2H7O3P/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17;1-2-6(3,4)5/h2*2-17H2,1H3;2H2,1H3,(H2,3,4,5)
